US06995143B2
C] 1-(2-Chloroethyl)-3-(3-pyridinyl)-1H-1,2,4-triazole
122 g (6.4 mmol) 1-(2-hydroxyethyl)-3-(3-pyridinyl)-1H-1,2,4-triazole were suspended in 15 ml thionyl chloride and heated at 70° C. for 45 minutes. Excess thionyl chloride was removed in vacuo and the residue was dissolved in water (100 ml). The aqueous solution was basified with NaHCO3 solution (10%) and the resulting slurry was stirred for 15 minutes. The product was isolated by filtration, washed with water and dried to give the desired product as a brownish solid. MS (EI): 208.1 (M+). 1H-NMR (DMSO-d6): 3.97 (t, 2H), 4.54 (t, 2H), 7.38 (m, 1H), 8.21 (s, 1H), 8.36 (m, 1H), 8.65 (m, 1H), 9.34 (d, 1H).

reactant | 1-(2-hydroxyethyl)-3-(3-pyridinyl)-1H-1,2,4-triazole | 6.4 mmol, 122 g | OCCN1N=C(N=C1)C=1C=NC=CC1 | C9H10N4O
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-(2-Chloroethyl)-3-(3-pyridinyl)-1H-1,2,4-triazole | ClCCN1N=C(N=C1)C=1C=NC=CC1 | C9H9ClN4
